US06288096B1
5-([4-[2-(4-tert-Butylaminocarbonyloxyphenyl)ethoxy]phenyl]methyl)thiazolidine-2,4-dione
1 g (2.27 mmole) 5-(4-[2-(4-tert-butylaminocarbonyloxyphenyl)ethoxy]benzylidene)thiazolidine-2,4-dione was hydrogenated on Pd/C (5%) in ethyl acetate at atmospheric pressure over night. The catalyst was filtered off and the solvent was evaporated in vacuo to give 1 g (yield 99%) of the desired product.

reactant | 5-(4-[2-(4-tert-butylaminocarbonyloxyphenyl)ethoxy]benzylidene)thiazolidine-2,4-dione | 2.27 mmole, 1 g | C(C)(C)(C)NC(=O)OC1=CC=C(C=C1)CCOC1=CC=C(C=C2C(NC(S2)=O)=O)C=C1 | C23H24N2O5S
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-([4-[2-(4-tert-Butylaminocarbonyloxyphenyl)ethoxy]phenyl]methyl)thiazolidine-2,4-dione | 1 g, yield 99% | C(C)(C)(C)NC(=O)OC1=CC=C(C=C1)CCOC1=CC=C(C=C1)CC1C(NC(S1)=O)=O | C23H26N2O5S
